US04740612
To 80 ml of methanol solution containing 0.92 g of metallic sodium were added 7.8 g of methyl 2,2-dimethyl-3-(2',2',2'-trichloroethyl)-cyclopropanecarboxylate (purity: 87.8%, cis/trans ratio: 88/12) to heat the resulting mixture for 35 hours under reflux. After distilling off the methanol, the mixture was diluted with water, acidified with diluted hydrochloric acid, subjected to extraction with ether. After washing the ether layer with sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution, the ether was distilled off. Vacuum distillation was carried out to obtain 5.4 g of methyl 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropanecarboxylate, b.p. 64°-72° C./1.2 mmHg, cis/trans ratio 90.9/9.1, purity 87.8%, yield 79.8%. Further, the sodium bicarbonate aqueous wash solution was acidified to obtain 0.5 g of 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropanecarboxylic acid.

reactant | sodium | 0.92 g | [Na] | Na
reactant | methyl 2,2-dimethyl-3-(2',2',2'-trichloroethyl)-cyclopropanecarboxylate | 7.8 g | CC1(C(C1CC(Cl)(Cl)Cl)C(=O)OC)C | C9H13Cl3O2
solvent | methanol | 80 ml | CO | CH4O
product | methyl 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropanecarboxylate | 5.4 g, yield 79.8% | CC1(C(C1C=C(Cl)Cl)C(=O)OC)C | C9H12Cl2O2
